US07745439B2
6-Hydroxy-1-oxo-3-phenyl-1H-indene-2-carboxylic acid ethyl ester (300 mg, 1.019 mmol) obtained in Preparation Example 2 was dissolved in THF/benzene (30 mL/10 mL). 2-Pyridine ethanol (308 mg, 2.039 mmol) and triphenyl phosphine (534 mg, 2.039 mmol) were added thereto, and cooled to 0° C. Subsequently, diisopropyl azodicarboxylate (412 mg, 2.039 mmol) was slowly dropped thereto and stirred for 1 hr at RT. The resulting mixture washed with saturated saline and extracted with ethyl acetate. The organic layer was separated, dried over anhydrous MgSO4 and concentrated under a reduced pressure. The resulting residue was purified by flash chromatography to obtain 388 g of 6-[2-(pyridine-2-yl)-ethoxy]-1-oxo-3-phenyl-1H-indene-2-carboxylic acid ethyl ester (yield: 89%) as a red solid.

reactant | 2-Pyridine ethanol | 2.039 mmol, 308 mg | N1=C(C=CC=C1)CCO | C7H9NO
reactant | triphenyl phosphine | 2.039 mmol, 534 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.039 mmol, 412 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | THF benzene | 30 mL | C1CCOC1.C1=CC=CC=C1
product | 6-[2-(pyridine-2-yl)-ethoxy]-1-oxo-3-phenyl-1H-indene-2-carboxylic acid ethyl ester | 388 g, yield: 89% | C(C)OC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)OCCC1=NC=CC=C1)=O | C25H21NO4
